US07259262B2
A solution of 0.51 g (2.0 mmol) 1-[2-(4-methoxy-phenyl)-oxazol-4-ylmethyl]-imidazole in 15 ml 47% aqueous hydrobromic acid was stirred at 70° C. for 4 days. The reaction mixture was poured on ice, made basic with concentrated ammonia and extracted with ethyl acetate to yield 0.28 g (58%) raw 4-[4-(imidazol-1-ylmethyl)-oxazol-2-yl]-phenol as tan crystals.

reactant | 1-[2-(4-methoxy-phenyl)-oxazol-4-ylmethyl]-imidazole | 2.0 mmol, 0.51 g | COC1=CC=C(C=C1)C=1OC=C(N1)CN1C=NC=C1 | C14H13N3O2
reactant | ammonia | N | H3N
solvent | hydrobromic acid | 15 ml | Br | BrH
product | 4-[4-(imidazol-1-ylmethyl)-oxazol-2-yl]-phenol | 0.28 g, 58% | N1(C=NC=C1)CC=1N=C(OC1)C1=CC=C(C=C1)O | C13H11N3O2
